US04493833
Platinic oxide (0.4 g.) was added to a solution of benzyhydryl 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(4-nitrobenzoyloxymethyl)-3-cephem-4-carboxylate (syn isomer) (4.3 g.) in a mixture of ethanol (50 ml.) and tetrahydrofuran (50 ml.), and the suspension was subjected to catalytic reduction at ambient temperature under ordinary pressure for 3 hours. After removing the catalyst from the resultant mixture by filtration, the filtrate was evaporated under reduced pressure. The residue was dissolved in ethyl acetate and the solution was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated in vacuo. The residue was pulverized with diethyl ether to give benzhydryl 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(4-aminobenzoyl-oxymethyl)-3-cephem-4-carboxylate (syn isomer) (3.0 g.).

reactant | 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(4-nitrobenzoyloxymethyl)-3-cephem-4-carboxylate | 4.3 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C2=CC=C(C=C2)[N+](=O)[O-])=O)C(=O)[O-])C1=O)C=1N=C(SC1)N
reactant | ethanol | 50 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | benzhydryl 7-[2-methoxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(4-aminobenzoyl-oxymethyl)-3-cephem-4-carboxylate | 3.0 g | CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(C2=CC=C(C=C2)N)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)N | C34H30N6O7S2
